US04146721
5 grams of 3,5-dimethyl-1-allyl-pyrazol-4-acetic acid-ethyl ester were mixed with 25 milliliters methanol and 10 milliliters water. The mixture was heated to the boiling temperature and held there while 11.3 milliliters 2N aqueous sodium hydroxide were added dropwise at such rate, that the pH of 10 was maintained. The reaction mixture thus obtained was worked up by the procedure described in Example (1b). 2.1 grams 3,5-dimethyl-1-allyl-pyrazol-4-acetic acid melting at 139°-140° C. were obtained representing a yield of 48%.

reactant | 3,5-dimethyl-1-allyl-pyrazol-4-acetic acid-ethyl ester | 5 grams | C(C)OC(CC=1C(=NN(C1C)CC=C)C)=O | C12H18N2O2
reactant | methanol | 25 milliliters | CO | CH4O
reactant | sodium hydroxide | 2N, 11.3 milliliters | [OH-].[Na+]
solvent | water | 10 milliliters | O | H2O
product | 3,5-dimethyl-1-allyl-pyrazol-4-acetic acid | 2.1 grams, yield of 48% | CC1=NN(C(=C1CC(=O)O)C)CC=C | C10H14N2O2
